US05631373
4-Fluoro-2,6-dinitroaniline.
A solution of 4-fluoro-2,6-dinitro-(trifluoroacetamido)benzene (297 mg, 1.00 mmol) in 10% K2CO3 (10 mL) was refluxed for 1 h, then cooled to room temperature to give yellow crystals. It was filtered and washed with cold water (2×1 mL), affording 105 mg (52%) of the title compound. 1H NMR (DMSO-d6): δ8.254 (s, 2H), 8.460 (d, 2H, J=8.4).

reactant | 4-fluoro-2,6-dinitro-(trifluoroacetamido)benzene | 1.00 mmol, 297 mg | FC1=CC(=C(C(=C1)[N+](=O)[O-])NC(C(F)(F)F)=O)[N+](=O)[O-] | C8H3F4N3O5
solvent | K2CO3 | 10 mL | C(=O)([O-])[O-].[K+].[K+]
product | 4-Fluoro-2,6-dinitroaniline | 105 mg, 52% | FC1=CC(=C(N)C(=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H4FN3O4
